US06972340B2
benzhydryl 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate
To 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoic acid in acetone was added diphenyldiazomethane (until all starting material was consumed as evident by monitoring via TLC). The reaction mixture was concentrated under reduced pressure, purified on silica gel using ethyl acetate as eluent to provide the titled compound. MS (ESI(+)) m/e 705 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 8.51-8.01 (m, 2H), 7.73-6.86 (m, 16H), 5.93-5.78 (m, 1H), 5.34-5.10 (m, 2H), 4.57-4.40 (m, 3H), 3.10-2.84 (m, 2H), 2.58-2.42 (m, 2H), 1.82-1.77 (m, 3H), 1.22-0.78 (m, 3H), 1.07, 1.05, 1.00 (s, s, s, 9H).

reactant | 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoic acid | C(C)(=O)NC(CC1=CC(=C(N(C2=C(C(=O)O)C=CC=C2)C(C(=O)OC(C)(C)C)=O)C=C1)CC)C(=O)OCC=C | C29H34N2O8
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | acetone | CC(=O)C | C3H6O
product | benzhydryl 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate | C(C)(=O)NC(CC1=CC(=C(N(C2=C(C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2)C(C(=O)OC(C)(C)C)=O)C=C1)CC)C(=O)OCC=C | C42H44N2O8
